US08492549B2
1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-ethyl-3-methoxymethylpiperidine
Prepared from [1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-ethylpiperidin-3-yl]methanol according to the procedure described for 1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methoxymethyl-3-methylpiperidine.

reactant | [1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-ethylpiperidin-3-yl]methanol | O1C(COC2=C1C=CC=C2)CN2CC(CCC2)(CC)CO | C17H25NO3
reactant | 1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methoxymethyl-3-methylpiperidine | O1C(COC2=C1C=CC=C2)CN2CC(CCC2)(C)COC | C17H25NO3
product | 1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-ethyl-3-methoxymethylpiperidine | O1C(COC2=C1C=CC=C2)CN2CC(CCC2)(COC)CC | C18H27NO3
